US04478833
8-Benzylamino-2-(5-hydroxy-1,5-dimethylhexyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 3 from 8-benzylamino-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 232°-233° C.) and 6-amino2-methyl-2-heptanol. Resin.

reactant | 8-benzylamino-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C17H17ClN6OS
reactant | 6-amino2-methyl-2-heptanol | NC(CCCC(C)(O)C)C | C8H19NO
product | 8-Benzylamino-2-(5-hydroxy-1,5-dimethylhexyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NC(CCCC(C)(C)O)C | C25H35N7O2S
